US04863929
3-(13-chloro-2,3-dihydro-6-methyl-8α-ergolinyl)-1,1-diethylurea.
With N-chlorosuccinimide and 3-(12-bromo-1-tert-butyldimethylsilyl-9,10-didehydro-6-methyl-8α-ergolinyl)1,1-diethylurea:

reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-(12-bromo-1-tert-butyldimethylsilyl-9,10-didehydro-6-methyl-8α-ergolinyl)1,1-diethylurea | BrC1=CC=C2N(C=C3C[C@H]4N(C[C@H](C=C4C1=C32)NC(N(CC)CC)=O)C)[Si](C)(C)C(C)(C)C | C26H39BrN4OSi
product | 3-(13-chloro-2,3-dihydro-6-methyl-8α-ergolinyl)-1,1-diethylurea | ClC=1C=C2NCC3C[C@H]4N(C[C@H](C[C@@H]4C(C1)=C32)NC(N(CC)CC)=O)C | C20H29ClN4O
